US07396844B1
Synthesis of 2-(4-bromophenyl)-2-(3-chloropropyl)-5,5-dimethyl-1,3-dioxane
10 g (38.2 mmol) of 4′-bromo-4-chlorobutyrophenone, 4 g (38.2 mmol) of 2,2-dimethyl-1,3-propanediol and 200 mg (1 mmol) of p-toluenesulfonic acid monohydrate were heated under reflex in benzene for 3 days to conduct the azeotropic dehydration. Saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture. After the extraction with ethyl acetate, the extract was washed with water and saturated aqueous common salt solution and then dried over anhydrous magnesium sulfate. The solvent was evaporated to obtain the title compound.

reactant | 4′-bromo-4-chlorobutyrophenone | 38.2 mmol, 10 g | BrC1=CC=C(C=C1)C(CCCCl)=O | C10H10BrClO
reactant | 2,2-dimethyl-1,3-propanediol | 38.2 mmol, 4 g | CC(CO)(CO)C | C5H12O2
reactant | p-toluenesulfonic acid monohydrate | 1 mmol, 200 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-(4-bromophenyl)-2-(3-chloropropyl)-5,5-dimethyl-1,3-dioxane | BrC1=CC=C(C=C1)C1(OCC(CO1)(C)C)CCCCl | C15H20BrClO2
